US07834063B2
A. 4-[{2-[(4-Formylphenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and methyl 4-hydroxybenzaldehyde: 1H NMR (300 MHz, CDC3) δ 9.89 (s, 1H), 7.88-7.80 (m, 2H), 7.68 (d, J=8.9 Hz, 1H), 7.20 (d, J=2.4 Hz, 1H), 7.02 (dd, J=8.8, 2.7 Hz, 1H, partially overlapped with 6.99-6.93), 6.99-6.93 (m, 2H), 4.31 (t, J=5.2 Hz, 2H), 4.20 (q, J=8.5 Hz, 2H), 4.05 (t, J=5.2 Hz, 2H).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | methyl 4-hydroxybenzaldehyde | CC1=C(C=O)C=CC(=C1)O | C8H8O2
product | 4-[{2-[(4-Formylphenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | C(=O)C1=CC=C(C=C1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C19H14F6N2O2
